US09126998B2
N-(2-Amino-2-methylpropyl)-6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide
70 mg of 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid (0.20 mmol), 96 mg (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate (TBTU, 0.30 mmol) and 80 mg of 4-methylmorpholine (0.79 mmol) were initially charged in 1 ml of DMF. 35 mg of 2-methylpropane-1,2-diamine (0.40 mmol) were then added, and the mixture was stirred at RT overnight. The reaction solution was purified by preparative HPLC (RP18 column, mobile phase: acetonitrile/water gradient with addition of 0.1% TFA). The product was taken up in ethyl acetate and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted twice with ethyl acetate, the combined organic phases were dried over sodium sulphate and filtered. The filtrate was concentrated and lyophilized. This gave 38 mg of the title compound (45% of theory).

reactant | 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.20 mmol, 70 mg | ClC=1C=C(C=2N(C1)C(=C(N2)C)C(=O)O)OCC2=C(C=CC=C2F)F | C16H11ClF2N2O3
reactant | (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate | 0.30 mmol, 96 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)O[C+](N(C)C)N(C)C
reactant | 4-methylmorpholine | 0.79 mmol, 80 mg | CN1CCOCC1 | C5H11NO
reactant | 2-methylpropane-1,2-diamine | 0.40 mmol, 35 mg | CC(CN)(C)N | C4H12N2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(2-Amino-2-methylpropyl)-6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)Cl)C)(C)C | C20H21ClF2N4O2
